US07179823B1
Sodium hydride (60%, oily, 28.0 mg) was added to a solution of ethyl 3-[1-[3-hydroxy-5-[2-(2-pyrazinyl)-4-thiazolylmethoxy]benzyl]-4-phenyl-3-pyrrolyl]propionate (378 mg) in N,N-dimethylformamide (5 ml) at 0° C., which was stirred at room temperature for 15 minutes. Iodoethane (0.0672 ml) was added to the mixture, which was stirred at room temperature for 1 hour. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), then concentrated. The residue was subjected to silica gel column chromatography, and ethyl 3-[1-[3-ethoxy-5-[2-(2-pyrazinyl)-4-thiazolylmethoxy]benzyl]-4-phenyl-3-pyrrolyl]propionate (385 mg, yield: 97%) was obtained as an oily substance from the fraction eluted with ethyl acetate-hexane (1:1, volume ratio).

reactant | Sodium hydride | 28.0 mg | [H-].[Na+]
reactant | ethyl 3-[1-[3-hydroxy-5-[2-(2-pyrazinyl)-4-thiazolylmethoxy]benzyl]-4-phenyl-3-pyrrolyl]propionate | 378 mg | OC=1C=C(CN2C=C(C(=C2)C2=CC=CC=C2)CCC(=O)OCC)C=C(C1)OCC=1N=C(SC1)C1=NC=CN=C1 | C30H28N4O4S
reactant | Iodoethane | 0.0672 ml | ICC | C2H5I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | ethyl 3-[1-[3-ethoxy-5-[2-(2-pyrazinyl)-4-thiazolylmethoxy]benzyl]-4-phenyl-3-pyrrolyl]propionate | 385 mg, yield: 97% | C(C)OC=1C=C(CN2C=C(C(=C2)C2=CC=CC=C2)CCC(=O)OCC)C=C(C1)OCC=1N=C(SC1)C1=NC=CN=C1 | C32H32N4O4S
